US07786132B2
5,5-Dimethyl-1-(2-(4-(5-(pyridine-4-ylmethylamino) benzothiophen-2-yl)pyrimidin-2-ylamino)ethyl)imidazolidine-2,4-dione
1-(2-(4-(5-aminobenzothiophen-2-yl)pyrimidin-2-ylamino)ethyl)-5,5-dimethylimidazolidin-2,4-dione (300 mg, 0.758 mmol) was suspended in dichloromethane (10 mL). Isonicotinaldehyde (97.4 mg, 0.910 mmol), acetic acid (4-5 drops), and sodium triacetoxyborohydride (321 mg, 1.516 mmol) were added, and the mixture was heated to 60° C. for 16 h. The reaction was cooled to room temperature, diluted with a saturated aqueous solution of sodium bicarbonate (15 mL), and extracted with dichloromethane (4×15 mL). The organic layers were combined and then washed in turn with a saturated aqueous solution of sodium bicarbonate (10 mL), deionized water (15 mL), and a saturated aqueous solution of sodium chloride (15 mL). The organic layer was separated, dried over sodium sulfate (200 mg), filtered through a coarse frit (to remove the sodium sulfate), and concentrated in vacuo to give a white solid (100 mg). The crude material was purified by flash chromatography (MeOH/DCM) to yield the title compound as a white powder (20 mg). MS (M+H)+ 488.

reactant | 1-(2-(4-(5-aminobenzothiophen-2-yl)pyrimidin-2-ylamino)ethyl)-5,5-dimethylimidazolidin-2,4-dione | 0.758 mmol, 300 mg | NC=1C=CC2=C(C=C(S2)C2=NC(=NC=C2)NCCN2C(NC(C2(C)C)=O)=O)C1 | C19H20N6O2S
reactant | Isonicotinaldehyde | 0.910 mmol, 97.4 mg | C(C1=CC=NC=C1)=O | C6H5NO
reactant | sodium triacetoxyborohydride | 1.516 mmol, 321 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
catalyst | acetic acid | 4-5 drops | C(C)(=O)O | C2H4O2
solvent | sodium bicarbonate | 15 mL | C([O-])(O)=O.[Na+]
product | 5,5-Dimethyl-1-(2-(4-(5-(pyridine-4-ylmethylamino) benzothiophen-2-yl)pyrimidin-2-ylamino)ethyl)imidazolidine-2,4-dione | 100 mg | CC1(C(NC(N1CCNC1=NC=CC(=N1)C=1SC2=C(C1)C=C(C=C2)NCC2=CC=NC=C2)=O)=O)C | C25H25N7O2S
